US07348354B2
1-(4-Dimethylamino-4-phenylcyclohexylmethyl)-3-[2-(1H-indol-3-yl)ethyl]-thiourea
Tryptamine (320.4 mg, 2 mmole) was dissolved in dry chloroform (10 ml) and combined with triethylamine (533 μl, 4 mmole). The mixture was cooled to −5° C. Thiophosgene (153.3 μl, 2 mmole) was then added dropwise, resulting in the formation of a precipitate. After a reaction time of 18 h at RT, (4-aminomethyl-1-phenyl-cyclohexyl)-dimethylamine (464.74 mg, 2 mmole) dissolved in chloroform (5 ml) was added. After 20 h stirring at RT, the reaction mixture was clear. Working up was performed by washing the batch with saturated NaHCO3 solution (3×5 ml) and water (5 ml). The organic phase was dried with Na2SO4 and evaporated. The product was a mixture of two diastereoisomers. These were purified and separated by column chromatography [silica gel 60 (70 g); eluent: MeOH/EE 1:1 (1500 ml)]. The more nonpolar diastereoisomer of 1-(4-dimethylamino-4-phenylcyclohexylmethyl)-3-[2-(1H-indol-3-yl)ethyl]thiourea (266 mg, m.p. 84-87° C., 31%) and also the more polar diastereoisomer of 1-(4-dimethylamino-4-phenylcyclohexylmethyl)-3-[2-(1H-indol-3-yl)ethyl]thiourea (274 mg, m.p. 92-95° C., 32%) were light beige solids.

reactant | Tryptamine | 2 mmole, 320.4 mg | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | triethylamine | 4 mmole, 533 μl | C(C)N(CC)CC | C6H15N
reactant | Thiophosgene | 2 mmole, 153.3 μl | C(=S)(Cl)Cl | CCl2S
reactant | (4-aminomethyl-1-phenyl-cyclohexyl)-dimethylamine | 2 mmole, 464.74 mg | NCC1CCC(CC1)(C1=CC=CC=C1)N(C)C | C15H24N2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-Dimethylamino-4-phenylcyclohexylmethyl)-3-[2-(1H-indol-3-yl)ethyl]-thiourea | CN(C1(CCC(CC1)CNC(=S)NCCC1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | C26H34N4S
